US04355037
1-Benzyl-4-(2-hydroxy-4-methoxybenzoyl)piperidine
A mixture of 14.50 g of 4-(2-hydroxy-4-methoxybenzoyl)piperidine, 6.40 ml of benzyl bromide, 10.20 g of sodium bicarbonate and 74.0 ml of dimethylformamide was stirred at 60° for 15 hrs. The reaction mixture was poured into 250 ml of water and a precipitate formed. The precipitate was collected, washed with water and recrystallized from ethanol to yield 10.0 g (57.4%) of product, mp, 123°-125°.

reactant | 4-(2-hydroxy-4-methoxybenzoyl)piperidine | 14.50 g | OC1=C(C(=O)C2CCNCC2)C=CC(=C1)OC | C13H17NO3
reactant | benzyl bromide | 6.40 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bicarbonate | 10.20 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 74.0 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 1-Benzyl-4-(2-hydroxy-4-methoxybenzoyl)piperidine | 10.0 g, 57.4% | C(C1=CC=CC=C1)N1CCC(CC1)C(C1=C(C=C(C=C1)OC)O)=O | C20H23NO3
